US06552068B1
Sodium hydride (60%, 6.3 g, 156.96 mmol) was added to anhydrous tetrahydrofuran (200 ml) under argon atmosphere and cooled to 0° C. To this mixture, diethyl malonate (23.8 ml, 156.95 mmol) was slowly added dropwise, followed by stirring for 1 hour at room temperature. After cooling to 0° C., 8-bromo-1-octene (20 g, 104.64 mmol) was slowly added to the reaction mixture, followed by stirring for 12 hours at room temperature. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/30) to give diethyl 2-(7-octenyl)malonate (16 g, Yield 56.56%) as a colorless oil.

reactant | Sodium hydride | 156.96 mmol, 6.3 g | [H-].[Na+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | diethyl malonate | 156.95 mmol, 23.8 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 8-bromo-1-octene | 104.64 mmol, 20 g | BrCCCCCCC=C | C8H15Br
solvent | Water | O | H2O
product | diethyl 2-(7-octenyl)malonate | 16 g, Yield 56.56% | C(CCCCCC=C)C(C(=O)OCC)C(=O)OCC | C15H26O4
